US07723352B2
A mixture of 3-tert-butyl-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one (0.333 g) and 48% HBr (30 mL) was heated at reflux for 8 h. The reaction was concentrated to give 3-tert-butyl-6-hydroxy-2-methyl-4-phenylisoquinolin-1(2H)-one as a brown solid, which was used without further purification.

reactant | 3-tert-butyl-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one | 0.333 g | C(C)(C)(C)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)C | C21H23NO2
solvent | HBr | 30 mL | Br | BrH
product | 3-tert-butyl-6-hydroxy-2-methyl-4-phenylisoquinolin-1(2H)-one | C(C)(C)(C)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)O)=O)C | C20H21NO2
